US07030119B1
Step e: Preparation of 1-adamantyl 4-carboxymethyl-2-fluoro-3-(2-methyl-phenylamino)-6-nitrophenyl carbonate
The compound 1-adamantyl 4-carboxymethyl-2,3-difluoro-6-nitrophenyl carbonate is dissolved in excess ortho-toluidine. The reaction mixture is stirred at 200° C. for 6 hours. The mixture is allowed to cool and is dissolved in diethyl ether. The organic phase is washed with dilute aqueous hydrochloric acid, saturated aqueous sodium bicarbonate, and brine, is dried (MgSO4), and is concentrated in vacuo to afford the desired product. The product is purified by flash chromatography as necessary.

reactant | 1-adamantyl 4-carboxymethyl-2,3-difluoro-6-nitrophenyl carbonate | C(OC12CC3CC(CC(C1)C3)C2)(OC2=C(C(=C(C=C2[N+](=O)[O-])CC(=O)O)F)F)=O | C19H19F2NO7
reactant | ortho-toluidine | NC=1C(=CC=CC1)C | C7H9N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-adamantyl 4-carboxymethyl-2-fluoro-3-(2-methyl-phenylamino)-6-nitrophenyl carbonate | C(OC12CC3CC(CC(C1)C3)C2)(OC2=C(C(=C(C=C2[N+](=O)[O-])CC(=O)O)NC2=C(C=CC=C2)C)F)=O | C26H27FN2O7
